US06245804B1
5 g of 2-bromo-4-nitrobenzoic acid is converted into acid chloride, which is dissolved in 50 ml of tetrahydrofuran and added in drops to 3 ml of allylamine in 20 ml of tetrahydro-furan, by 2 hours of boiling with 30 ml of thionyl chloride and distilling-off of excess thionyl chloride. After 20 hours at room temperature, it is dispersed between 1N hydrochloric acid and ethyl acetate, the ethyl acetate phase is washed with water, dried (Na2SO4) and concentrated by evaporation. The residue is crystallized with hexane. 5.6 g of 2-bromo-4-nitrobenzoic acid-allylamide, melting point 98-100° C., is obtained.

reactant | 2-bromo-4-nitrobenzoic acid | 5 g | BrC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H4BrNO4
reactant | allylamine | 3 ml | C(C=C)N | C3H7N
reactant | thionyl chloride | 30 ml | S(=O)(Cl)Cl | Cl2OS
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydro-furan | 20 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-bromo-4-nitrobenzoic acid-allylamide | 5.6 g | C(C=C)NC(C1=C(C=C(C=C1)[N+](=O)[O-])Br)=O | C10H9BrN2O3
